US04605652
N-(1-Azabicyclo[2.2.2]oct-3-yl)-1,3-benzodioxole-5-carboxamide
Following the procedure of Example 22, 1,3-benzodioxole-5-carboxylic acid, 1,1'-carbonyldiimidazole and 3-aminoquinuclidine are reacted to give the title compound.

reactant | 1,3-benzodioxole-5-carboxylic acid | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminoquinuclidine | NC1CN2CCC1CC2 | C7H14N2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-1,3-benzodioxole-5-carboxamide | N12CC(C(CC1)CC2)NC(=O)C2=CC1=C(OCO1)C=C2 | C15H18N2O3
